US08912173B2
455 mg 1-(2-(pyridin-2-ylethynyl)pyridin-3-yl)ethanone was dissolved in 10 mL DCM, 1.069 mL of DIPEA was added, the solution was cooled 0° C. and 1.42 mL of tert-butyldimethylsilyltrifluormethansulfonate added slowly. The mixture was stirred 30 min at 0° C., warmed to 25° C. and filtrated over a plug of silica (cyclohexane/ethylacetate 1:1+small amount of TEA) to yield 1.025 g 3-(1-(tert-butyldimethylsilyloxy)vinyl)-2-(pyridin-2-ylethynyl)pyridine as oil. Analysis: HPLC-MS: Rt=1.59 min (method E) m+H=337.

reactant | 1-(2-(pyridin-2-ylethynyl)pyridin-3-yl)ethanone | 455 mg | N1=C(C=CC=C1)C#CC1=NC=CC=C1C(C)=O | C14H10N2O
reactant | DIPEA | 1.069 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyldimethylsilyltrifluormethansulfonate | 1.42 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-(tert-butyldimethylsilyloxy)vinyl)-2-(pyridin-2-ylethynyl)pyridine | 1.025 g | [Si](C)(C)(C(C)(C)C)OC(=C)C=1C(=NC=CC1)C#CC1=NC=CC=C1 | C20H24N2OSi
